US05070087
4-[2,2-Bis(4-fluorophenyl)ethyl]piperidine hydrochloride hydrate [1:1:0.5]
A mixture of 10.0 g (0.3 mole) α,α-bis(4-fluoropheny)-4-pyridineethanol and 1.2 g of 5% platinum on carbon catalyst in 200 ml of acetic acid was shaken under an atmosphere of hydrogen (49 psi) for 16 hr. The solution was filtered through Celite®, and the solvent was removed in vacuo. The residue was partitioned between methylene chloride and dilute sodium hydroxide. The solvent was removed in vacuo to give an oil. This was dissolved in methanol, an excess of ethereal hydrogen chloride was added and ether was added. A precipitate was collected to give 7.58 g (72%) as a white crystalline solid, mp 171°-173° C.

reactant | α,α-bis(4-fluoropheny)-4-pyridineethanol | 0.3 mole, 10.0 g | FC1=CC=C(C=C1)C(CC1=CC=NC=C1)(O)C1=CC=C(C=C1)F | C19H15F2NO
reactant | hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
catalyst | platinum on carbon | 1.2 g | [Pt] | Pt
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 4-[2,2-Bis(4-fluorophenyl)ethyl]piperidine hydrochloride hydrate | O.Cl.FC1=CC=C(C=C1)C(CC1CCNCC1)C1=CC=C(C=C1)F | InChI=1S/C19H21F2N.ClH.H2O/c20-17-5-1-15(2-6-17)19(13-14-9-11-22-12-10-14)16-3-7-18(21)8-4-16;;/h1-8,14,19,22H,9-13H2;1H;1H2
